US07700637B2
A solution of the title G compound, 4-chloro-2-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzenesulfonyl-(t-butoxycarbonyl)amino}-benzoic acid methyl ester (300 mg, 0.48 mmol) in dioxane (5 mL) to which 2.4 mL of 1 N aqueous NaOH is added is heated at 90° C. for 3 h. The mixture is concentrated under vacuum, acidified with 1 N aqueous HCl, and extracted twice with EtOAc. The organic solution is dried over anhydrous magnesium sulfate, filtered and concentrated to give a crude product which is triturated with DCM. The solid is collected by filtration to afford 4-chloro-2-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzenesulfonyl-amino}-benzoic acid: m.p. 223-225° C.; ESI-MS 513 [M+1]+.

reactant | 4-chloro-2-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzenesulfonyl-(t-butoxycarbonyl)amino}-benzoic acid methyl ester | 0.48 mmol, 300 mg | COC(C1=C(C=C(C=C1)Cl)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C31H31ClN2O8S
reactant | NaOH | 1 N, 2.4 mL | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-2-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzenesulfonyl-amino}-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C25H21ClN2O6S
